US05466661
2-(2,4-Dichlorobenzyloxy)-N-methoxybenzamide (10.44 g) was dissolved in dry methylene chloride (100 ml), phosphorus pentachloride (6.66 g) was added under ice-cooling over about 3 minutes to the solution, and the mixture was stirred at 0° C. for 1 hour. After completion of the reaction, a saturated aqueous solution of sodium bicarbonate (150 ml) was added slowly, and the mixture was extracted with methylene chloride (150 ml) twice, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crude product was purified by silica gel chromatography to give α-chloro-2-(2,4-dichlorobenzyloxy)benzaldehyde O-methyloxime (9.52 g) as crystals. A part of the crystals was recrystallized from ethyl acetate/n-hexane to give colorless crystals. mp 91°-92° C.

reactant | 2-(2,4-Dichlorobenzyloxy)-N-methoxybenzamide | 10.44 g | ClC1=C(COC2=C(C(=O)NOC)C=CC=C2)C=CC(=C1)Cl | C15H13Cl2NO3
reactant | phosphorus pentachloride | 6.66 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | α-chloro-2-(2,4-dichlorobenzyloxy)benzaldehyde O-methyloxime | 9.52 g | CON=C(C1=C(C=CC=C1)OCC1=C(C=C(C=C1)Cl)Cl)Cl | C15H12Cl3NO2
